US04782079
A mixture of 2-(2,2-dichloroethenyl)-5-(4-methylsulfinylphenyl)thiophene (0.8 g, 0.0025 mole) and m-chloroperbenzoic acid (2.0 g, 0.005 mole) in methylene chloride (50 mL) was stirred at room temperature for two days. The mixture was poured into a 0.5N aqueous sodium thiosulfate solution. The resultant mixture was extracted with diethyl ether. The extract was washed first with an aqueous 10% sodium hydroxide solution, followed by an aqueous 10% hydrochloric acid solution. The washed extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure, leaving a solid residue. This residue was purified by column chromatography on alumina, eluting with n-hexane:ethyl acetate (50:50), yielding 0.4 g of 2-(2,2-dichloroethenyl)-5-(4-methylsulfonylphenyl)thiophene as a solid (mp 143°-145° C.).

reactant | 2-(2,2-dichloroethenyl)-5-(4-methylsulfinylphenyl)thiophene | 0.0025 mole, 0.8 g | ClC(=CC=1SC(=CC1)C1=CC=C(C=C1)S(=O)C)Cl | C13H10Cl2OS2
reactant | m-chloroperbenzoic acid | 0.005 mole, 2.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 0.5N | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,2-dichloroethenyl)-5-(4-methylsulfonylphenyl)thiophene | 0.4 g | ClC(=CC=1SC(=CC1)C1=CC=C(C=C1)S(=O)(=O)C)Cl | C13H10Cl2O2S2
